US08877780B2
To a stirred mixture of 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride (0.97 g, 3.00 mmol) and 4-methoxy-benzoyl chloride (0.51 g, 3.00 mmol) in MeCN (20 mL), was added DIPEA (1.05 mL, 6.00 mmol) at room temperature under nitrogen. After 1 h, the product was isolated by filtration, washed with MeCN (10 mL) and dried in vacuo to give N-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-4-methoxy-benzamide as a white solid (0.99 g, 79% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 3.58 min (97.92%); mp: 215-217° C.; 1H NMR (DMSO-d6) δ 1.94-2.20 (m, 1H, CHH), 2.39-2.70 (m, 2H, CHH, CHH), 2.78-3.04 (m, 1H, CHH), 3.82 (s, 3H, CH3), 4.63 (d, J=5.9 Hz, 2H, CH2), 5.14 (dd, J=5.4, 12.7 Hz, 1H, CH), 7.02 (d, J=8.9 Hz, 2H, Ar), 7.76-7.97 (m, 5H, Ar), 9.08 (t. J=5.9 Hz, 1H, NH), 11.12 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.99, 30.93, 42.55, 48.99, 55.37, 113.60, 121.91, 123.53, 126.11, 129.11, 129.74, 131.59, 133.40, 147.87, 161.75, 165.91, 167.00, 167.15, 169.82, 172.73; LCMS: MH=422; Anal Calcd for C22H19N3O6: C, 62.70; H, 4.54; N, 9.97. Found: C, 62.40; H, 4.46; N, 10.12.

reactant | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride | 3.00 mmol, 0.97 g | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O
reactant | 4-methoxy-benzoyl chloride | 3.00 mmol, 0.51 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | DIPEA | 6.00 mmol, 1.05 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeCN | 20 mL | CC#N | C2H3N
product | N-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-4-methoxy-benzamide | 0.99 g, 79% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1=O)CNC(C1=CC=C(C=C1)OC)=O)=O)=O | C22H19N3O6
